US08440652B2
To a solution of methyl 3-methylthiophene-2-carboxylate (10.0 g, 64.0 mmol) in CCl4 (100 mL) was added AlBN (180 mg, 1.1 mmol) and N-bromosuccinimide (11.4 g, 64.0 mmol). The reaction mixture was refluxed for 10 min, and then an additional portion of AlBN (460 mg, 2.8 mmol) was added. This reaction was heated overnight at 90° C. under a reflux condenser. At completion, the reaction was filtered over a short plug of silica gel (100% DCM eluent). The filtrate was concentrated and purified by flash chromatography over silica gel (2% EtOAc/hexane eluent) to afford methyl 3-(bromomethyl)thiophene-2-carboxylate (9.5 g, 63% yield) as a white solid. 1H NMR (400 MHz, METHANOL-d4) δ ppm 7.66 (d, J=5.0 Hz, 1H), 7.23 (d, J=5.0 Hz, 1H), 4.95 (s, 2H), 3.89 (s, 3H); MS (EI) m/z=236.1 [M+1]+.

reactant | methyl 3-methylthiophene-2-carboxylate | 64.0 mmol, 10.0 g | CC1=C(SC=C1)C(=O)OC | C7H8O2S
reactant | N-bromosuccinimide | 64.0 mmol, 11.4 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | CCl4 | 100 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | methyl 3-(bromomethyl)thiophene-2-carboxylate | 9.5 g, 63% yield | BrCC1=C(SC=C1)C(=O)OC | C7H7BrO2S
